US04113715
N,S-Diacetyl-DL-cysteinyl-L-proline (0.3 g) is dissolved in a mixture of water (4 ml) and concentrated ammonia (4 ml) under a blanket of argon. The solution is stored for thirty minutes at room temperature, saturated with sodium chloride and extracted with ethyl acetate and chloroform. The organic layers are pooled and concentrated to dryness in vacuo to obtain N-acetyl-DL-cysteinyl-L-proline, yield 0.1 g, Rf =0.25 (silica gel; benzene:acetic acid, 75:25).

reactant | N,S-Diacetyl-DL-cysteinyl-L-proline | 0.3 g | C(C)(=O)NC(CSC(C)=O)C(=O)N1[C@H](C(=O)O)CCC1 | C12H18N2O5S
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 4 ml | O | H2O
solvent | ammonia | 4 ml | N | H3N
product | N-acetyl-DL-cysteinyl-L-proline | C(C)(=O)NC(CS)C(=O)N1[C@H](C(=O)O)CCC1 | C10H16N2O4S
